Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([O:4][H:5])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.52816391108
[O:13][H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.36145469725
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.84727441174
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[H:4],0.702639697599
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.62780084356
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.57456758847
[H:1][C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:3]=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.06450763025
[H:1][C:2]1[O:3][O:4]/[C:5]1=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][C:5]([O:4][O:3])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.7633201169
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[O:7]=[O:8],-0.9098019161
[H:5].[O:1][O:2][C:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.11632286262
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.20267923621
[C:4]#[C:5][C:6][O:7][H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][O:7][H:8],-0.1652883393799999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-2.58492753685
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11].[O:1],8.039542403739999
[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3](=[O:4])([H:5])[C:6]([H:7])([H:8])[H:9],1.71032538166
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6],3.0080257556800003
[C:9]([H:10])([H:11])[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.25829748747
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.84122262543
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([O:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[H:13],1.05721739213
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.456048613150001
[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:4]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.7566987895
[H:12].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.99493554317
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.22033273625
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],4.9919497766
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],0.779438000258
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-4.82602827119
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],5.20594992273
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:10][H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:10][H:11].[O:1],3.86811504731
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:3][H:4],4.1443227763
[H:1][C:2]=[C:3]([H:4])[O:6][O:5]>>[H:1][C:2][C:3]1([H:4])[O:5][O:6]1,1.03849279746
[C:1]#[C:2][C@:4]([O:3])([H:5])[C:6]#[C:7][H:8]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]#[C:7][H:8],-1.6566720767200005
